US06703392B2
2-{1-[4-(pyrimidin-2-yloxy)-3-methoxy-benzyl]-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl}-N-benzyl-acetamide:
prepared by reaction of 2-[1-(4-hydroxy-3-methoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-acetamide with 2-chloro-pyrimidine

reactant | 2-[1-(4-hydroxy-3-methoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-acetamide | OC1=C(C=C(CC2N(CCC3=CC(=C(C=C23)OC)OC)CC(=O)NCC2=CC=CC=C2)C=C1)OC | C28H32N2O5
reactant | 2-chloro-pyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
product | 2-{1-[4-(pyrimidin-2-yloxy)-3-methoxy-benzyl]-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl}-N-benzyl-acetamide | N1=C(N=CC=C1)OC1=C(C=C(CC2N(CCC3=CC(=C(C=C23)OC)OC)CC(=O)NCC2=CC=CC=C2)C=C1)OC | C32H34N4O5
